US08835462B2
To a solution of tert-butyl ((3S,7S,8R,9S)-7-benzyl-8-hydroxy-9-methyl-2-oxo-1,5-dioxonan-3-yl)carbamate (360 mg, 0.949 mmol, 1.00 equiv) in CH2Cl2 (9.5 mL, 0.1 M) at 0° C. (ice water bath) were added benzyl propiolate (228 mg, 1.42 mmol, 1.5 equiv) and DABCO (5 mg, 0.05 mmol, 0.05 equiv). The resulting solution was stirred at 0° C. for 20 min and then poured into 0.1 N HCl (20 mL). The mixture was extracted with CH2Cl2 (3×20 mL), and the combined organic extracts were dried over Na2SO4, filtered, and concentrated to provide a white crystalline solid. The solid was purified by automated silica gel column chromatography (5-25% acetone in hexanes) to provide (E)-benzyl 3-(((3S,6S,7R,8S)-8-benzyl-3-((tert-butoxycarbonyl)amino)-6-methyl-4-oxo-1,5-dioxonan-7-yl)oxy)acrylate (490 mg, 96%) as a white solid: IR (ATR) 3344, 2982, 2941, 1752, 1717, 1690, 1638, 1527, 1454, 1381, 1205, 1079, 833, 751, 697 cm−1; 1H NMR (400 MHz, CDCl3) δ 7.50 (d, J=12.2 Hz, 1H), 7.40-7.09 (m, 10H), 5.44 (d, J=12.2 Hz, 1H), 5.16 (s, 2H), 5.09 (d, J=8.2 Hz, 1H), 5.01 (dd, J=9.3, 6.4 Hz, 1H), 4.64 (dd, J=15.3, 7.5 Hz, 1H), 3.91 (dd, J=11.6, 7.5 Hz, 1H), 3.73 (t, J=9.2 Hz, 1H), 3.45 (dt, J=10.6, 8.5 Hz, 2H), 3.28 (dd, J=11.3, 7.5 Hz, 1H), 2.92 (dd, J=13.8, 3.5 Hz, 1H), 2.34 (t, J=12.4 Hz, 1H), 2.05 (s, 1H), 1.51-1.35 (m, 12H); 13C NMR (100 MHz, CDCl3) δ 172.15, 167.40, 163.21, 138.54, 136.22, 129.10, 128.57, 128.25, 128.19, 126.48, 98.54, 89.01, 80.31, 73.94, 72.60, 71.36, 65.87, 52.72, 46.48, 35.21, 28.26, 18.74; HRMS-ESI (m/z) [M+Na]+ calc'd for C30H37NO8Na, 562.2411. found, 562.2427.

reactant | tert-butyl ((3S,7S,8R,9S)-7-benzyl-8-hydroxy-9-methyl-2-oxo-1,5-dioxonan-3-yl)carbamate | 0.949 mmol, 360 mg, 1.00 equiv | C(C1=CC=CC=C1)[C@H]1COC[C@@H](C(O[C@H]([C@@H]1O)C)=O)NC(OC(C)(C)C)=O | C20H29NO6
reactant | benzyl propiolate | 1.42 mmol, 228 mg, 1.5 equiv | C(C#C)(=O)OCC1=CC=CC=C1 | C10H8O2
reactant | HCl | 0.1 N, 20 mL | Cl | ClH
solvent | CH2Cl2 | 0.1 M, 9.5 mL | C(Cl)Cl | CH2Cl2
catalyst | DABCO | 0.05 mmol, 5 mg, 0.05 equiv | C1CN2CCN1CC2 | C6H12N2
product | (E)-benzyl 3-(((3S,6S,7R,8S)-8-benzyl-3-((tert-butoxycarbonyl)amino)-6-methyl-4-oxo-1,5-dioxonan-7-yl)oxy)acrylate | 490 mg, 96% | C(C1=CC=CC=C1)[C@@H]1[C@H]([C@@H](OC([C@H](COC1)NC(=O)OC(C)(C)C)=O)C)O/C=C/C(=O)OCC1=CC=CC=C1 | C30H37NO8
